US06352993B1
5,6dimethyl-2-(4-fluorophenylamino)-4-{1-methyl-6-(4-benzylpiperazine)acetoxy-1,2,3,4tetrahydroisoquinolin-2-yl}pyrimnidine trihydrochioride
The same procudures as in Example 167 were repeated using 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-6-hydroxy 1,2,3,4-tetrahydroisoquinolin-2-ylppyrimidine(50 mg, 0.132 mmol ), 1-hydroxybenzotriazole(26.8 mg, 0.1 98 mmol), -ethyl-3-(3-dimethylaminopropyl)carbodiimide(32.9 mg, 0.171 mol), 4-benzylpiperazinoacetic acid dihydrochyoride (48.7 mg, 0.158mmol), and triethylamine(64 μl, 0.462mmol) to afford the titled compound.

reactant | 1-hydroxybenzotriazole | 98 mmol, 26.8 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-benzylpiperazinoacetic acid | C(C1=CC=CC=C1)N1CCN(CC1)CC(=O)O | C13H18N2O2
reactant | triethylamine | 0.462mmol, 64 μl | C(C)N(CC)CC | C6H15N
product | ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.171 mol, 32.9 mg | C(C)N=C=NCCCN(C)C | C8H17N3
